US09238640B2
Preparation of 2-(2,6-Dimethylpyridin-4-yl)-5-methoxy-7-(2-phenoxyethoxy)quinazolin-4(3H)-one
To a solution of 2-phenoxy-ethanol (0.90 g, 6.50 mmol) in DMSO (5 mL) was added sodium hydride (60% in mineral oil, 0.16 g, 4.00 mmol) in small portions. The reaction mixture was stirred at room temperature under nitrogen for 1 hour. 2-(2,6-Dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one (0.20 g, 0.67 mmol) was added and stirring continued at 90° C. for 17 hours. The reaction was then cooled to room temperature, water (100 mL) was added, and was extracted with ethyl acetate (200 mL). The organic phase was washed with brine and dried over anhydrous Na2SO4. Solvent was removed and the crude compound was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in CH2Cl2 as eluent) to give the title compound as a white solid. Yield: 70 mg (25%). MP 223-224° C. 1H NMR (400 MHz, CDCl3): δ 11.35 (s, 1H), 7.75 (s, 2H), 7.32 (t, J=8.0 Hz, 2H), 7.02-6.97 (m, 3H), 6.91 (d, J=2.0 Hz, 1H), 6.60 (d, J=1.6 Hz, 1H), 4.49-4.47 (m, 2H), 4.41-4.39 (m, 2H), 3.97 (s, 3H), 2.67 (s, 6H). MS (ES+) m/z: 418.08 (M+1).

reactant | 2-phenoxy-ethanol | 6.50 mmol, 0.90 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | sodium hydride | 4.00 mmol, 0.16 g | [H-].[Na+]
reactant | 2-(2,6-Dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one | 0.67 mmol, 0.20 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)F)C | C16H14FN3O2
reactant | water | 100 mL | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2-(2,6-Dimethylpyridin-4-yl)-5-methoxy-7-(2-phenoxyethoxy)quinazolin-4(3H)-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OCCOC1=CC=CC=C1)C | C24H23N3O4
